US07402595B2
6-chloro-2-dimethylamino-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
A mixture of 6-chloro-2-methylamino-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (800 mg), potassium carbonate (400 mg), methyl iodide (20 ml) and DMF (20 ml) was stirred at 80° C. for 3 days. The reaction mixture was concentrated, and ethyl acetate was added to the obtained residue. The mixture was washed with water and brine, dried over sodium sulfate and concentrated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1) and crystallized from isopropyl ether to give the title compound (469 mg) as colorless crystals.

reactant | 6-chloro-2-methylamino-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 800 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Cl)=O)NC | C18H15ClN2O3
reactant | potassium carbonate | 400 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 20 ml | CI | CH3I
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 6-chloro-2-dimethylamino-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 469 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Cl)=O)N(C)C | C19H17ClN2O3
